US06969725B2
b] 2-[Dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde
To a solution of 2-hydroxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde (540 mg, 1.67 mmol) in 8 ml N,N-dimethylformamide cooled to 0° C., were added 398 mg (5.85 mol) imidazole and 1.1 ml (5.85 mmol) thexyl-dimethylchlorosilane. The reaction mixture was stirred 50 minutes at 0° C., diluted with AcOEt, washed with water/ice, HCl (1M)/ice and brine and the aqueous layer was extracted with AcOEt. The combined organic layers were dried over Na2SO4 and evaporated. Chromatography (SiO2; AcOEt/heptane) delivered 346 mg (45%) of the title compound as an oil.

reactant | 2-hydroxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde | 1.67 mmol, 540 mg | OC1=C(C=O)C=CC(=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C19H17NO4
reactant | imidazole | 5.85 mol, 398 mg | N1C=NC=C1 | C3H4N2
reactant | thexyl-dimethylchlorosilane | 5.85 mmol, 1.1 ml | C(C)(C)(C(C)C)[Si](Cl)(C)C | C8H19ClSi
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-[Dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde | C[Si](OC1=C(C=O)C=CC(=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)(C(C(C)C)(C)C)C | C27H35NO4Si
